US08217065B2
F. 6-[5-(4-Chloro-phenyl)-[1,3,4]oxadiazol-2-yl]-2-(2,6-dimethyl-4-morpholin-4-yl-phenyl)-1H-benzoimidazole
252 mg of 4-Chloro-benzoic acid N′-[2-(2,6-dimethyl-4-morpholin-4-yl-phenyl)-3H-benzoimidazole-5-carbonyl]-hydrazide was placed in a microwave tube and dissolved in 4 ml of THF. 300 mg of (methoxycarbonylsulfamoyl)triethylammonium hydroxide (Burgess Reagent) was added and the tube was sealed and microwaved at 150° C. for 30 minutes. The reaction was then diluted with water and heptane. The precipitates were collected by filtration and purified by column chromatography (heptane:ethyl acetate=1:1 to 1:2) to provide the title compound. LCMS ret T=1.44 min, m/z=486.1, method 10. 1H NMR (400 MHz, MeOD) □ ppm 2.29 (br. s., 6 H) 3.36 (br. s., 5 H) 3.99 (br. s., 4 H) 6.95 (br. s., 2 H) 7.81 (s, 2 H) 7.95 (br. s., 1 H) 8.25 (br. s., 1 H) 8.32 (br. s., 2 H) 8.56 (br. s., 1 H).

reactant | 4-Chloro-benzoic acid N′-[2-(2,6-dimethyl-4-morpholin-4-yl-phenyl)-3H-benzoimidazole-5-carbonyl]-hydrazide | 252 mg | CC1=C(C(=CC(=C1)N1CCOCC1)C)C=1NC2=C(N1)C=CC(=C2)C(=O)NNC(C2=CC=C(C=C2)Cl)=O | C27H26ClN5O3
reactant | (methoxycarbonylsulfamoyl)triethylammonium hydroxide | 300 mg | [OH-].COC(=O)NS(=O)(=O)[N+](CC)(CC)CC
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | heptane | CCCCCCC | C7H16
product | 6-[5-(4-Chloro-phenyl)-[1,3,4]oxadiazol-2-yl]-2-(2,6-dimethyl-4-morpholin-4-yl-phenyl)-1H-benzoimidazole | ClC1=CC=C(C=C1)C1=NN=C(O1)C=1C=CC2=C(NC(=N2)C2=C(C=C(C=C2C)N2CCOCC2)C)C1 | C27H24ClN5O2
